US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6(2,3,4,5,6-pentafluorophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (200 mg, 0.613 mmol) and 2,3,4,5,6-pentafluorophenol were reacted as starting materials at 150° C. for 24 hours and post-treatment was then conducted, whereby the title compound was obtained as a colorless amorphous solid (175.6 mg, 60.5%).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.613 mmol, 200 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 2,3,4,5,6-pentafluorophenol | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
product | 3,4-bis(4-methoxyphenyl)-6(2,3,4,5,6-pentafluorophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=C(C(=C(C(=C1F)F)F)F)F | C24H15F5N2O3
